US06703182B1
A suspension of 4,4′-methanediyl-bis-benzenediazonium tetrafluoroborate (11.9 g, 0.03 mol), prepared according to the method of example 6.1, allyl cyanide (8.05 g; 0.12 mol), and palladium acetate (0.135 g, 0.6 mmol) in 80 ml of ethanol is heated at 40° C. during 22 h. The heterogeneous reaction mixture is poured into 300 ml of water, extracted with ethyl acetate, washed with water, brine, dried over MgSO4, and evaporated. The crude beige product is recrystallized from 130 ml of ethanol, yielding 5.44 g (61%) of 4-{4-[4-(3-cyano-propenyl)-benzyl]-phenyl}-but-3-enenitrile as light beige crystals, melting point 128-130° C.

reactant | 4,4′-methanediyl-bis-benzenediazonium tetrafluoroborate | 0.03 mol, 11.9 g | F[B-](F)(F)F.C(C1=CC=C(C=C1)[N+]#N)C1=CC=C(C=C1)[N+]#N.F[B-](F)(F)F
reactant | allyl cyanide | 0.12 mol, 8.05 g | C(C=C)C#N | C4H5N
reactant | water | 300 ml | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium acetate | 0.6 mmol, 0.135 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-{4-[4-(3-cyano-propenyl)-benzyl]-phenyl}-but-3-enenitrile | 5.44 g, 61% | C(#N)CC=CC1=CC=C(CC2=CC=C(C=C2)C=CCC#N)C=C1 | C21H18N2
